* source 20260306 1
R_R8         N10602 N10610  1m TC=0,0 
D_D17         B N10704 DI_1N4004 
I_I2         OUT 0 DC 0.12  
D_D15         A N10704 DI_1N4004 
Q_Q2         N10704 N10862 OUT Q2N3904
D_D22         0 N10862 D1N750 
X_TX2    N10610 0 A B SCHEMATIC1_TX2 
V_V7         N10602 0  
+SIN 0 {220*1.414} 60Hz 0 0 0
R_R7         N10704 N10862  58 TC=0,0 
D_D14         0 A DI_1N4004 
R_R4         N10704 0  {R} TC=0,0 
C_C2         N10704 0  {C}  TC=0,0 
D_D16         0 B DI_1N4004 
.PARAM  c=100uf r=1k

.subckt SCHEMATIC1_TX2 1 2 3 4  
K_TX2         L1_TX2 L2_TX2 1
L1_TX2         1 2 1mH
L2_TX2         3 4 1.49uH
.ends SCHEMATIC1_TX2
