* source 20260313 TEST
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +.5ms 1
+REPEAT FOREVER
+ +.5ms 0
+  +.5ms 1
+ ENDREPEAT
R_R11         IN N08098  10K TC=0,0 
M_M1         OUT N08098 N07450 N07450 CEDM8001
M_M2         OUT N08098 0 0 CEDM7001
V_V1         N07450 0 5V
