* source 20260309
Q_Q1         N00261 N00466 0 Q2N3904
R_R1         N00265 N00261  1k TC=0,0 
I_I1         N00293 0 DC {ib}  
Q_Q2         N00304 N00293 N00265 Q2N3906
R_R2         N00304 0  1k TC=0,0 
I_I2         0 N00466 DC {ib}  
V_V1         N00265 0 5V
V_V2         N00815 0 5V
R_R3         N00815 N00871  1k TC=0,0 
Q_Q3         N00871 N00921 0 Q2N3904
R_R4         N01063 N00921  86K TC=0,0 
V_V3         N01063 0 5V
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N01633 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
R_R6         N01633 N01592  86K TC=0,0 
R_R5         N01472 N01540  1k TC=0,0 
V_V4         N01472 0 5V
Q_Q4         N01540 N01592 0 Q2N3904
V_V5         N01915 0 5V
R_R7         N01915 N02177  {rc} TC=0,0 
Q_Q5         N02181 N02077 0 Qmmbt3904tt1
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N02071 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
R_R8         N02071 N02077  {rb} TC=0,0 
D_D1         N02177 N02181 SCMP13WBC8W1 
.PARAM  rc=370 rb=10k ib=0
