* source 20260311
V_V1         N00217 0 12V
R_R1         N00217 N00224  1.5 TC=0,0 
I_IL         N00224 0 DC 0Adc  
Q_Q1         N00251 N00224 N00217 Qmmbt3906tt1
R_R2         N00251 0  1k TC=0,0 
V_V2         N00895 0 {vgs}
R_R3         N00914 N00910  1k TC=0,0 
V_V3         N00914 0 5V
V_V4         N00914 N00947 {vgs}
M_M2         N00970 N00947 N00914 N00914 IRF9140
R_R4         N00970 0  1k TC=0,0 
M_M3         N00910 N00895 0 0 IRF150
M_M4         N01623 N01683 0 0 2N7002
M_M5         N01711 N01631 N01547 N01547 TP2502
R_R6         N01711 0  1k TC=0,0 
V_V7         N01683 0 {vgs}
V_V5         N01547 0 5V
R_R5         N01547 N01623  1k TC=0,0 
V_V6         N01547 N01631 {vgs}
M_M6         N02132 N03243 0 0 2N7002
R_R7         N02092 N02132  1k TC=0,0 
V_V8         N02092 0 5V
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N03239 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
R_R8         N03239 N03243  10k TC=0,0 
.PARAM  vgs=0
