* source 20260313
R_R3         CON N03529  47k TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CON IO_STM IO_LEVEL=0 
+ 0 0
+ +5ms 1
+REPEAT FOREVER
+ +5ms 0
+  +5ms 1
+ ENDREPEAT
M_M2         N03721 N03529 0 0 CEDM7001
V_V1         N03714 0 5V
R_R2         N03714 N03721  10k TC=0,0 
M_M1         OUT N03721 N03714 N03714 CEDM8001
R_R1         OUT 0  1k TC=0,0 
C_C1         OUT 0  1u  TC=0,0 
R_R6         CON N04844  47k TC=0,0 
M_M4         N047660 N04844 0 0 CEDM7001
R_R5         N04582 N04660  10k TC=0,0 
M_M3         OUT N04660 N04582 N04582 CEDM8001
V_V2         N04582 0 5V
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND CON IO_STM IO_LEVEL=0 
+ 0 0
+ +5ms 1
+REPEAT FOREVER
+ +5ms 0
+  +5ms 1
+ ENDREPEAT
C_C2         OUT 0  1u  TC=0,0 
R_R4         OUT 0  1k TC=0,0 
R_R7         N04660 N047660  1k TC=0,0 
C_C3         OUT N04660  5n  TC=0,0 
M_M6         N06685 N05787 0 0 CEDM7001
R_R8         OUT 0  1k TC=0,0 
C_C4         OUT N05575  5n  TC=0,0 
V_V3         N05471 0 5V
C_C5         OUT 0  1u  TC=0,0 
R_R11         CON N05787  47k TC=0,0 
R_R10         N05575 N06685  1k TC=0,0 
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND CON IO_STM IO_LEVEL=0 
+ 0 0
+ +5ms 1
+REPEAT FOREVER
+ +5ms 0
+  +5ms 1
+ ENDREPEAT
M_M5         OUT N05575 N05471 N05471 CEDM8001
R_R9         N05471 N05575  10k TC=0,0 
R_R12         OUT N06496  1k TC=0,0 
M_M7         N06496 N06685 0 0 CEDM7001
