* source 20260316
X_U1A         0 N00128 VCC VEE INV LM324
R_R1         EI N00128  1k TC=0,0 
R_R2         N00128 INV  10K TC=0,0 
V_V2         VEE 0 -12V
V_V3         VCC 0 12V
V_V4         EI 0  
+SIN 0V 1V 1kHz 0 0 0
R_R3         INV 0  10K TC=0,0 
R_R4         N01301 NON  90MEG TC=0,0 
R_R5         0 N01301  10MEG TC=0,0 
X_U1B         EI N01301 VCC VEE NON LM324
R_R6         NON 0  10K TC=0,0 
X_U2B         EI BUFFER VCC VEE BUFFER LM324
R_R9         BUFFER 0  10K TC=0,0 
R_R11         N03426 N02762  1k TC=0,0 
R_R10         N02762 N02772  2K TC=0,0 
R_R12         N03496 0  10K TC=0,0 
X_U2C         N02892 N02762 VCC 0 N02772 LM324
V_V5         N02846 0  
+SIN 0V 1V 1kHz 0 0 0
V_V6         N02892 0 6V
C_C1         N02846 N03426  1u  TC=0,0 
C_C2         N02772 N03496  1u  TC=0,0 
R_R14         N04123 N04037  1K TC=0,0 
X_U3B         N04767 N04037 VCC 0 N04047 LM324
R_R13         N04037 N04047  1K TC=0,0 
R_R15         N04920 0  10K TC=0,0 
V_V7         N04123 0 6V
C_C3         EI N04767  1u  TC=0,0 
C_C4         N04047 N04920  1u  TC=0,0 
