* source DDD
R_R1         EI N01215  1k TC=0,0 
R_R2         N01215 0  1k TC=0,0 
L_L1         EI N01257  0.5h  
R_R3         N01257 0  1k TC=0,0 
C_C1         EI N01270  0.5uF  TC=0,0 
R_R4         N01270 0  1k TC=0,0 
V_V1         EI 0  
+SIN 0 0.5 {fr} 0 0 0
.PARAM  fr=100
