* source FF
V_V1         N00108 0 0Vdc
R_R1         N00108 N00115  1k TC=0,0 
R_R2         N00115 N00122  1k TC=0,0 
R_R3         0 N00122  1k TC=0,0 
